US04686217
Diethyl 1,4-dihydro-2-methyl-6-(methylsulphinyl)-4-(3-nitrophenyl)-3,5-pyridinedicarboxylate Isomers I and II
Peracetic acid (6.8 ml of 1M solution in methanol) was added to a solution of diethyl 1,4-dihydro-2-methyl-6-(methylthio)-4-(3-nitrophenyl)-3,5-pyridinedicarboxylate (2.77 g 6.8 mmoles) in methylene chloride (150 ml) at -78°. The reaction mixture was allowed to reach room temperature and was then stirred for 30 minutes. Saturated aqueous sodium bicarbonate (150 ml) was added and the organic layer separated, dried (Na2SO4) and the solvent removed in vacuo. The residue was chromatographed on silica, eluting with ether/petroleum ether (60°-80° ) mixtures. The two isomers were separated and recrystallised from 2-propanol.

reactant | Peracetic acid | 1M, 6.8 ml | C(C)(=O)OO | C2H4O3
reactant | diethyl 1,4-dihydro-2-methyl-6-(methylthio)-4-(3-nitrophenyl)-3,5-pyridinedicarboxylate | 6.8 mmoles, 2.77 g | CC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)SC | C19H22N2O6S
reactant | sodium bicarbonate | 150 ml | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | Diethyl 1,4-dihydro-2-methyl-6-(methylsulphinyl)-4-(3-nitrophenyl)-3,5-pyridinedicarboxylate | CC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)S(=O)C | C19H22N2O7S
